US05807862
Sodium hydride (343 mg, 14 mmol) was added to a stirring solution of 1-methylthymine (2.00 g, 14 mmol) in dimethylsulfoxide (40 ml). After 15 minutes, 9-bromo-1-nonene (2.93 g, 14 mmol, available from Alfebro) was added and the resulting mixture stirred for 20 hours. The reaction was poured into water (40 ml) and extracted with three 50 ml aliquots of dichloromethane. The organic layers were combined, washed with water (40 ml) and saturated aqueous salt solution (20 ml). After drying the washed organic layers over sodium sulfate, the solvent was evaporated, leaving a colorless oil, 3-(8-nonenyl)-1-methylthymine, which solidified upon standing (2.76 g, 73% yield).

reactant | Sodium hydride | 14 mmol, 343 mg | [H-].[Na+]
reactant | 1-methylthymine | 14 mmol, 2.00 g | CN1C(=O)NC(=O)C(C)=C1 | C6H8N2O2
reactant | 9-bromo-1-nonene | 14 mmol, 2.93 g | BrCCCCCCCC=C | C9H17Br
reactant | water | 40 ml | O | H2O
solvent | dimethylsulfoxide | 40 ml | CS(=O)C | C2H6OS
product | 3-(8-nonenyl)-1-methylthymine | 73% yield | C(CCCCCCC=C)N1C(N(C=C(C1=O)C)C)=O | C15H24N2O2
